US07838674B2
4-Aza-spiro[2.5]octane-5,7-dione
5,7-Dioxo-4-aza-spiro[2.5]octane-6-carboxylic acid methyl ester (162 mg; 0.852 mmol) is refluxed in acetonitrile/water (3 ml; 9:1) for 1 hour. The reaction mixture is evaporated to dryness and taken up in EtOAc/MeOH, filtered from undissolved material and evaporated to yield the title compound as light-brown solid (102 mg; 85%). 1H-NMR (400 MHz; DMSO-d6): 8.28 (s, 1H); 3.59 (s, 2H); 2.48 (s, 2H); 0.83 (m. 2H); 0.70 (m, 2H). MS (m/z) ES+: 140 (MH+).

reactant | 5,7-Dioxo-4-aza-spiro[2.5]octane-6-carboxylic acid methyl ester | 0.852 mmol, 162 mg | COC(=O)C1C(NC2(CC2)CC1=O)=O | C9H11NO4
solvent | acetonitrile water | 3 ml | C(C)#N.O
product | 4-Aza-spiro[2.5]octane-5,7-dione | 102 mg, 85% | C1CC12NC(CC(C2)=O)=O | C7H9NO2
